US08802690B2
A suspension of methyl 4-amino-3-bromo-5-nitrobenzoate (10 g, 36.3 mmol) and tin(II) chloride (33 g, 14.5 mmol) in methanol (100 mL) was heated to 60° C. and maintained for 4 hours. The reaction mass was cooled to ambient temperature and concentrated to obtain a residue; the residue was basified using saturated aqueous sodium bicarbonate until pH was 11 and the aqueous layer was extracted with dichloromethane (3×200 mL). The combined organic layers were washed with aqueous saturated sodium chloride (200 mL), dried over anhydrous sodium sulfate and concentrated to obtain methyl 3,4-diamino-5-bromobenzoate as an off-white solid (5 g, 58%). 1HNMR (CDCl3): δ ppm 7.74 (s, 1H), 7.35 (s, 1H), 4.18 (broad s, 2H), 3.85 (s, 3H) and 3.38-3.56 (broad s, 2H).

reactant | methyl 4-amino-3-bromo-5-nitrobenzoate | 36.3 mmol, 10 g | NC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])Br | C8H7BrN2O4
reactant | tin(II) chloride | 14.5 mmol, 33 g | [Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | methyl 3,4-diamino-5-bromobenzoate | 5 g, 58% | NC=1C=C(C(=O)OC)C=C(C1N)Br | C8H9BrN2O2
